US05204341
1-[[4-(dimethylamino)-phenyl]-sulphonyl]-4-(2,2-dimethyl-1-oxo-propoxy)-2-pyrrolidinone
0.41 g of 1,4-diazabicyclo [2.2.2]octane (DABCO) is added at 3° C. to a solution of 1 g of [1-(4-diethylamino-benzenesulphonyl)-4-hydroxy-pyrrolidin-2-one] in 20 cm3 of methylene chloride, and then 0.43 g of pivaloyl chloride in solution in 3 cm3 of methylene chloride is added slowly, and the whole mixture is left at ambient temperature for 16 hours. Another equivalent of pivaloyl chloride and DABCO is added, the mixture is left at ambient temperature for 4 hours, brought to dryness, the residue is taken up in ethyl acetate, washed with water (at a pH of about 6), followed by filtering and bringing to dryness under reduced pressure, and the residue is chromatographed on silica (eluant: ethyl acetate - hexane 4-1). 0.6 g of expected crude product and 0.3 g of product containing a double bond in position 3,4 of the pyrrolidinone are obtained. The crude product is added to a previous preparation in order to obtain, after recrystallization from an ethyl acetate - hexane mixture (3-50), 0.86 g of the desired product. M.p.=117-118° C.

reactant | 1,4-diazabicyclo [2.2.2]octane | 0.41 g | N12CCN(CC1)CC2 | C6H12N2
reactant | 1-(4-diethylamino-benzenesulphonyl)-4-hydroxy-pyrrolidin-2-one | C(C)N(C1=CC=C(C=C1)S(=O)(=O)N1C(CC(C1)O)=O)CC | C14H20N2O4S
reactant | pivaloyl chloride | 0.43 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | methylene chloride | 20 cm3 | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 cm3 | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[[4-(dimethylamino)-phenyl]-sulphonyl]-4-(2,2-dimethyl-1-oxo-propoxy)-2-pyrrolidinone | CN(C1=CC=C(C=C1)S(=O)(=O)N1C(CC(C1)OC(C(C)(C)C)=O)=O)C | C17H24N2O5S
